US07153848B2
Methyl 1-allyl-3-cyclohexyl-2-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate
To a solution of methyl 3-cyclohexyl-2-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate (428 mg, 0.7 mmol) in dry DMF (5 mL) was added KH (30% in oil, 0.8 mmol, 109 mg) proportion-wise at RT. The mixture was stirred at RT for 10 min until no further effervescence was observed. Allyl bromide (420 mg, 3.5 mmol) was added and the resulting mixture was stirred at RT for 15 min. Methylene chloride (10 mL) was added and the solution was washed with 1N HCl (3×10 mL), dried (Na2SO4), filtered and evaporated to give the title compound in a form pure enough for use in the following step (100%). 1H NMR (300 MHz, CDCl3) δ 0.04 (s, 9H), 0.80 (m, 2H), 1.00–2.00(m, 10H), 2.45 (m, 1H), 3.43 (dd, 2H, J=7.5, 9.6 Hz), 3.91 (s, 3H), 4.50 (dd, 1H, J=4.8, 15.0), 4.60 (dd, 1H, J=6.0, 15.0), 4.88 (dd, 1H, J=1.2, 17.1 Hz), 5.03 (s, 2H), 5.04 (dd, 1H, J=0.9, 9.0 Hz), 5.78 (m, 1H), 7.75 (dd, 1H, J=1.5, 8.5 Hz), 7.82 (d, 1H, J=8.5 Hz), 8.02 (s, 1H).

reactant | methyl 3-cyclohexyl-2-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate | 0.7 mmol, 428 mg | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C25H33Br2N3O3Si
reactant | Allyl bromide | 3.5 mmol, 420 mg | C(C=C)Br | C3H5Br
reactant | Methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 1-allyl-3-cyclohexyl-2-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate | C(C=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C28H37Br2N3O3Si
